US07476759B2
4-Benzyl 1-tert-butyl 2-(4-bromophenyl)succinate
Lithium bis(trimethylsilyl)amide (1.06 M in THF; 18.1 mL, 19.2 mmol) was added dropwise over 10 min to a stirred solution of tert-butyl (4-bromophenyl)acetate (4.92 g, 18.1 mmol) in THF (50 mL) at −78 ° C. under nitrogen. On completion of addition stirring was continued at −78 ° C. for 30 min then benzyl-2-bromoacteate (4.97 g, 3.44 mL, 21.7 mmol) was added dropwise over 5 min. The reaction was allowed to warm slowly to room temperature over 4 h then saturated ammonium chloride solution (50 mL) was added and the resulting suspension extracted with ethyl acetate (3×100 mL). The organic phases were combined, dried (magnesium sulfate) and evaporated to dryness. The residue was chromatographed on silica gel (10% diethyl ether: cyclohexane) to give the title compound as a colourless oil (6.26 g, 82%). LC/MS: 4.02 min; z/e 419 and 421, calcd (M+1) 419 and 421. 1H NMR (400 MHz: CDCl3): 7.40 (2H), 7.30 (5H), 7.10 (2H), 5.10 (2H), 3.90 (1H), 3.15 (1H), 2.65 (1H), 1.35 (9H).

reactant | Lithium bis(trimethylsilyl)amide | 19.2 mmol, 1.06 M, 18.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tert-butyl (4-bromophenyl)acetate | 18.1 mmol, 4.92 g | BrC1=CC=C(C=C1)CC(=O)OC(C)(C)C | C12H15BrO2
reactant | benzyl-2-bromoacteate | 21.7 mmol, 3.44 mL, 4.97 g | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-Benzyl 1-tert-butyl 2-(4-bromophenyl)succinate | 6.26 g, 82% | BrC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)CC(=O)OCC1=CC=CC=C1 | C21H23BrO4
